US04720500
The procedure is analogous to that described in Example 11, but starting with 4-trifluoromethylbenzoic acid (2.7 g), N,N'-carbonyldiimidazole (2.3 g) and 2-amino-7-(4-fluorophenyl)-1,8-naphthyridine (2.4 g). The product obtained by precipitation in water (2.1 g) is dissolved in boiling methanol (50 cc). After cooling for 2 hours at 4° C., the crystallized solid is separated by filtration, washed with methanol (3×5 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(4-Fluorophenyl)-1,8-naphthyridin-2-yl]-4-trifluoromethylbenzamide (1.3 g), m.p. 198° C., is obtained.

reactant | 4-trifluoromethylbenzoic acid | 2.7 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 2-amino-7-(4-fluorophenyl)-1,8-naphthyridine | 2.4 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC=C(C=C1)F | C14H10FN3
reactant | methanol | 50 cc | CO | CH4O
solvent | water | 2.1 g | O | H2O
product | N-[7-(4-Fluorophenyl)-1,8-naphthyridin-2-yl]-4-trifluoromethylbenzamide | 1.3 g | FC1=CC=C(C=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C22H13F4N3O
